US06664291B2
5-(2,6-Dichloro-4-nitro-phenoxy)-2-methoxy-(4-fluoro-benzenesulfonyl)-benzene
A mixture of 4-(4-methoxy-phenoxy)-3,5-dichloro-nitrobenzene (1 g, 3.4 mmol), p-fluorophenylsulfonyl chloride (1.33 g, 6.8 mmol) and Eaton's reagent (20 mL) was stirred at 110° C. for 4.5 h and the solution turned brown. The brown solution was poured into ice water and extracted with EtOAc (3×30 mL). The combined extracts were washed with sat'd sodium bicarbonate (3×50 mL), brine (50 mL), dried and concentrated. The residue was purified by chromatography (20% EtOAc in Hexanes) to give the title compound of Step A (468 mg). MS (APCl−) Calc.: 471.0, Found: 470.0 (M−1).

reactant | 4-(4-methoxy-phenoxy)-3,5-dichloro-nitrobenzene | 3.4 mmol, 1 g | COC1=CC=C(OC2=C(C=C(C=C2Cl)[N+](=O)[O-])Cl)C=C1 | C13H9Cl2NO4
reactant | p-fluorophenylsulfonyl chloride | 6.8 mmol, 1.33 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | Eaton's reagent | 20 mL | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
product | 5-(2,6-Dichloro-4-nitro-phenoxy)-2-methoxy-(4-fluoro-benzenesulfonyl)-benzene | 468 mg | ClC1=C(OC=2C=CC(=C(C2)S(=O)(=O)C2=CC=C(C=C2)F)OC)C(=CC(=C1)[N+](=O)[O-])Cl | C19H12Cl2FNO6S
